US08304557B2
(v) N-[3-({2-[(trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide
To a solution of N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide (1.00 g, 1.71 mmol) in dichloromethane (8.0 mL) was added trifluoroacetic anhydride (6.0 mL), and the mixture was stirred at room temperature for 4 hr. The reaction mixture was concentrated under reduced pressure, 5% aqueous sodium hydrogen carbonate solution (150 mL) was added to the residue, and the mixture was extracted with ethyl acetate (300 mL). The organic layer was washed with saturated brine (150 mL), and dried over anhydrous sodium sulfate. The insoluble material was collected by filtration, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=70/30→40/60) and recrystallized from ethyl acetate and hexane to give the title compound (0.55 g, 64%) as a colorless solid.

reactant | N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 1.71 mmol, 1.00 g | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=C(C=CC1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C28H23F3N4O5S
reactant | trifluoroacetic anhydride | 6.0 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 8.0 mL | ClCCl | CH2Cl2
product | N-[3-({2-[(trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide | 0.55 g, 64% | FC(C(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1)(F)F | C23H14F6N4O3
